US06977262B2
A suspension of 2-chloro-m-xylene (15 ml), N-bromosuccinimide (23.3 g) and benzoyl peroxide (200 mg) in carbon tetrachloride (150 ml) was heated under reflux for 6 hours. The insoluble material was filtered off and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent:hexane) to give 2-bromomethyl-1-chloro-6-methylbenzene (16.0 g) as a colorless oil. 2-Bromomethyl-1-chloro-6-methylbenzene (25.4 g) and hexamethylenetetramine (32.4 g) were dissolved in acetic acid-water (1:1, 10 ml) and the mixture was heated under reflux for 5 hours. To the reaction mixture was added concentrated hydrochloric acid (40 ml) and the mixture was heated under reflux for 1 hour. The reaction mixture was extracted with ethyl acetate. The extract was washed with an aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated to give 2-chloro-3-methylbenzaldehyde (19.4 g) as a yellow oil. Subsequently, the title compound was prepared from 2-chloro-3-methylbenzaldehyde, 3-aminopyrazole and ethyl 3-ketohexanoate in the same manner as in Example 25.

reactant | 2-Bromomethyl-1-chloro-6-methylbenzene | 25.4 g | BrCC1=C(C(=CC=C1)C)Cl | C8H8BrCl
reactant | hexamethylenetetramine | 32.4 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | hydrochloric acid | 40 ml | Cl | ClH
reactant | acetic acid water | 10 ml | C(C)(=O)O.O
product | 2-chloro-3-methylbenzaldehyde | 19.4 g | ClC1=C(C=O)C=CC=C1C | C8H7ClO
